US06242608B1
To a mixture of 80% hydrazine hydrate (1.64 g, 26.2 mmol) and methanol (5.0 ml) was dropwise added a solution of 4-(pyridin-2-yl)benzaldehyde (1.5 g, 8.2 mmol) in methanol (5.0 ml) at 25° C. over 10 minutes. After the dropwise addition, the mixture was stirred for 30 minutes. Methanol and excess hydrazine hydrate were evaporated under reduced pressure. The residue was crystallized and 4-(pyridin-2-yl)benzaldehyde hydrazine was obtained as crude crystals at a yield of 1.6 g (yield:100%). The percentage of the area of 4-(pyridin-2-yl)benzaldehyde hydrazone in the crude crystals as determined by liquid chromatography was 94.3%.

reactant | hydrazine hydrate | 26.2 mmol, 1.64 g | O.NN
reactant | 4-(pyridin-2-yl)benzaldehyde | 8.2 mmol, 1.5 g | N1=C(C=CC=C1)C1=CC=C(C=O)C=C1 | C12H9NO
solvent | methanol | 5.0 ml | CO | CH4O
solvent | methanol | 5.0 ml | CO | CH4O
product | 4-(pyridin-2-yl)benzaldehyde hydrazine | yield:100% | NN.N1=C(C=CC=C1)C1=CC=C(C=O)C=C1 | InChI=1S/C12H9NO.H4N2/c14-9-10-4-6-11(7-5-10)12-3-1-2-8-13-12;1-2/h1-9H;1-2H2
